US06420426B1
A solution of [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid ethyl ester (3.20 g, 7.20 mmol) in ethanol (36 mL, 0.2 M) was cooled to 0° C. and treated with aq NaOH (1.25 M, 28.8 mL, 36.0 mmol). After stirring for 30 min, the solution was warmed to room temperature and stirred an additional 4 h. Next, the solution was acidified to pH 1-2 with 2 N HCl, diluted with ethyl acetate and washed with saturated aq NaCl. The organic layer was dried over Na2SO4, filtered and concentrated to give [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid as a white crystalline solid (2.91 g, 97%): mp 184-185° C.; Rf 0.31 (20% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz) δ 13.40 (br s, 1H), 9.05, (t, J=5.7 Hz, 1H), 7.83, (d, J=8.4 Hz, 1H), 7.48 (d, J=10.5 Hz, 1 Hz), 7.38-7.32 (m, 2H), 7.26 (d, J=1.8 Hz, 1H), 7.13 (dd, J1=8.4 Hz, J2=1.5 Hz, 1H), 4.91 (s, 2H), 4.49 (d, J=5.7 Hz, 2H). ESI-LC/MS m/z calcd for C16H12BrClFNO4: 416.6; found 418.0 (M+1)+. Anal. calcd for C16H12BrClFNO4: C, 46.13; H, 2.90; N, 3.36; Cl, 17.02. Found C, 46.04; H, 2.89; N, 3.31; Cl, 17.09.

reactant | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid ethyl ester | 7.20 mmol, 3.20 g | C(C)OC(COC1=C(C=CC(=C1)Cl)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C18H16BrClFNO4
reactant | NaOH | 36.0 mmol, 1.25 M, 28.8 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | ethanol | 0.2 M, 36 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(4-bromo-2-fluoro-benzylcarbamoyl)-5-chloro-phenoxy]-acetic acid | 2.91 g, 97% | BrC1=CC(=C(CNC(=O)C2=C(OCC(=O)O)C=C(C=C2)Cl)C=C1)F | C16H12BrClFNO4
